US07202093B2
5-Carboxypentyl-D-biotinamide
To a mixture of 25 mL of tetrahydrofuran and 25 mL of methanol, was dissolved 5-carbomethoxypentyl-D-biotinamide (800 mg, 2.15 mmol) obtained in Production Example 5-2, followed by addition of a solution of sodium hydroxide (2.33 g, 58.3 mmol) in water (12.5 mL) dropwise at room temperature. After the addition was completed, the mixture was heated to 40° C. and reacted for 2 hours.

reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | methanol | 25 mL | CO | CH4O
reactant | 5-carbomethoxypentyl-D-biotinamide | 2.15 mmol, 800 mg | C(=O)(OC)CCCCCC(C(=O)N)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C17H29N3O4S
reactant | sodium hydroxide | 58.3 mmol, 2.33 g | [OH-].[Na+]
solvent | water | 12.5 mL | O | H2O
product | 5-Carboxypentyl-D-biotinamide | C(=O)(O)CCCCCC(C(=O)N)CCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C16H27N3O4S
